US08058269B2
To the mixture of piperidine-3-carboxylic acid (600 mg, 4.5 mmol) and NaOH (360 mg, 9 mmol) in water (5 mL) and dioxane (5 mL) was added rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one (1.1 g, 3 mmol). The mixture was stirred at room temperature for 1 h and then diluted by water (30 mL). The resulting solution was neutralized to pH=7 with hydrochloride acid and extracted by dichloromethane. The organic phase was dried over Na2SO4, filtered and concentrated to give rac-1-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-piperidine-3-carboxylic acid yield: (0.9 g, 71%). MS: [M−H]−=417.

reactant | piperidine-3-carboxylic acid | 4.5 mmol, 600 mg | N1CC(CCC1)C(=O)O | C6H11NO2
reactant | NaOH | 9 mmol, 360 mg | [OH-].[Na+]
reactant | rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | 3 mmol, 1.1 g | BrC1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C15H10BrCl2NO
reactant | hydrochloride | Cl | ClH
solvent | water | 5 mL | O | H2O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 30 mL | O | H2O
product | rac-1-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-piperidine-3-carboxylic acid | ClC1=CC=C2C(C(NC2=C1)=O)(CC1=CC(=CC=C1)Cl)N1CC(CCC1)C(=O)O | C21H20Cl2N2O3
